US05902713
α-(Methylsulfonyloxyimino)benzyl cyanide was prepared in the following manner. Thus, 52.5 g (0.36 mole) of α-hydroxyiminobenzyl cyanide and a solution prepared by dissolving 44.0 g (0.43 mole) of triethylamine in 400 ml of tetrahydrofuran were introduced into a reaction vessel to form a uniform solution which was chilled to and kept at -5° C. Into the solution in the reaction vessel were added dropwise 49.0 g (0.43 mole) of mesyl chloride over a period of 2 hours under agitation. The reaction mixture in the vessel was agitated at -5° C. for 3 hours and then at about 10° C. for additional 2 hours. The reaction mixture was freed from tetrahydrofuran as the solvent by distillation under reduced pressure at 30° C. to give 75.0 g of a solid residue which was purified by repeating recrystallization from acetonitrile to give 64.5 g of a white crystalline product having a melting point of 120° C., which could be identified to be the target compound from the results of the analysis described below and coincidence of the melting point with the known value reported in literatures. The above mentioned yield of the product corresponds to 80.0% of the theoretical value.

reactant | α-hydroxyiminobenzyl cyanide | 0.36 mole, 52.5 g | ON=C(C1=CC=CC=C1)C#N | C8H6N2O
reactant | triethylamine | 0.43 mole, 44.0 g | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.43 mole, 49.0 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | α-(Methylsulfonyloxyimino)benzyl cyanide | CS(=O)(=O)ON=C(C1=CC=CC=C1)C#N | C9H8N2O3S
